*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.004/0.002


.subckt chiplet5
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_500_1000 nd_1_0_1500_1000 0.016324
rd_1_2_0_0_1 nd_1_0_1500_1000 nd_1_0_2500_1000 0.016324
rd_1_2_0_0_2 nd_1_0_2500_1000 nd_1_0_3500_1000 0.016324
rd_1_2_0_0_3 nd_1_0_3500_1000 nd_1_0_4500_1000 0.016324
rd_1_2_0_0_4 nd_1_0_4500_1000 nd_1_0_5500_1000 0.016324
rd_1_2_0_0_5 nd_1_0_5500_1000 nd_1_0_6500_1000 0.016324
rd_1_2_0_0_6 nd_1_0_6500_1000 nd_1_0_7500_1000 0.016324
rd_1_2_0_0_7 nd_1_0_7500_1000 nd_1_0_8500_1000 0.016324
rd_1_2_0_0_8 nd_1_0_8500_1000 nd_1_0_9500_1000 0.016324
rd_1_2_0_1_0 nd_1_0_500_3000 nd_1_0_1500_3000 0.016324
rd_1_2_0_1_1 nd_1_0_1500_3000 nd_1_0_2500_3000 0.016324
rd_1_2_0_1_2 nd_1_0_2500_3000 nd_1_0_3500_3000 0.016324
rd_1_2_0_1_3 nd_1_0_3500_3000 nd_1_0_4500_3000 0.016324
rd_1_2_0_1_4 nd_1_0_4500_3000 nd_1_0_5500_3000 0.016324
rd_1_2_0_1_5 nd_1_0_5500_3000 nd_1_0_6500_3000 0.016324
rd_1_2_0_1_6 nd_1_0_6500_3000 nd_1_0_7500_3000 0.016324
rd_1_2_0_1_7 nd_1_0_7500_3000 nd_1_0_8500_3000 0.016324
rd_1_2_0_1_8 nd_1_0_8500_3000 nd_1_0_9500_3000 0.016324
rd_1_2_0_2_0 nd_1_0_500_5000 nd_1_0_1500_5000 0.016324
rd_1_2_0_2_1 nd_1_0_1500_5000 nd_1_0_2500_5000 0.016324
rd_1_2_0_2_2 nd_1_0_2500_5000 nd_1_0_3500_5000 0.016324
rd_1_2_0_2_3 nd_1_0_3500_5000 nd_1_0_4500_5000 0.016324
rd_1_2_0_2_4 nd_1_0_4500_5000 nd_1_0_5500_5000 0.016324
rd_1_2_0_2_5 nd_1_0_5500_5000 nd_1_0_6500_5000 0.016324
rd_1_2_0_2_6 nd_1_0_6500_5000 nd_1_0_7500_5000 0.016324
rd_1_2_0_2_7 nd_1_0_7500_5000 nd_1_0_8500_5000 0.016324
rd_1_2_0_2_8 nd_1_0_8500_5000 nd_1_0_9500_5000 0.016324
rd_1_2_0_3_0 nd_1_0_500_7000 nd_1_0_1500_7000 0.016324
rd_1_2_0_3_1 nd_1_0_1500_7000 nd_1_0_2500_7000 0.016324
rd_1_2_0_3_2 nd_1_0_2500_7000 nd_1_0_3500_7000 0.016324
rd_1_2_0_3_3 nd_1_0_3500_7000 nd_1_0_4500_7000 0.016324
rd_1_2_0_3_4 nd_1_0_4500_7000 nd_1_0_5500_7000 0.016324
rd_1_2_0_3_5 nd_1_0_5500_7000 nd_1_0_6500_7000 0.016324
rd_1_2_0_3_6 nd_1_0_6500_7000 nd_1_0_7500_7000 0.016324
rd_1_2_0_3_7 nd_1_0_7500_7000 nd_1_0_8500_7000 0.016324
rd_1_2_0_3_8 nd_1_0_8500_7000 nd_1_0_9500_7000 0.016324
rd_1_2_0_4_0 nd_1_0_500_9000 nd_1_0_1500_9000 0.016324
rd_1_2_0_4_1 nd_1_0_1500_9000 nd_1_0_2500_9000 0.016324
rd_1_2_0_4_2 nd_1_0_2500_9000 nd_1_0_3500_9000 0.016324
rd_1_2_0_4_3 nd_1_0_3500_9000 nd_1_0_4500_9000 0.016324
rd_1_2_0_4_4 nd_1_0_4500_9000 nd_1_0_5500_9000 0.016324
rd_1_2_0_4_5 nd_1_0_5500_9000 nd_1_0_6500_9000 0.016324
rd_1_2_0_4_6 nd_1_0_6500_9000 nd_1_0_7500_9000 0.016324
rd_1_2_0_4_7 nd_1_0_7500_9000 nd_1_0_8500_9000 0.016324
rd_1_2_0_4_8 nd_1_0_8500_9000 nd_1_0_9500_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_500_1000 nd_2_0_500_3000 0.016324
rd_2_1_0_0_1 nd_2_0_500_3000 nd_2_0_500_5000 0.016324
rd_2_1_0_0_2 nd_2_0_500_5000 nd_2_0_500_7000 0.016324
rd_2_1_0_0_3 nd_2_0_500_7000 nd_2_0_500_9000 0.016324
rd_2_1_0_1_0 nd_2_0_1500_1000 nd_2_0_1500_3000 0.016324
rd_2_1_0_1_1 nd_2_0_1500_3000 nd_2_0_1500_5000 0.016324
rd_2_1_0_1_2 nd_2_0_1500_5000 nd_2_0_1500_7000 0.016324
rd_2_1_0_1_3 nd_2_0_1500_7000 nd_2_0_1500_9000 0.016324
rd_2_1_0_2_0 nd_2_0_2500_1000 nd_2_0_2500_3000 0.016324
rd_2_1_0_2_1 nd_2_0_2500_3000 nd_2_0_2500_5000 0.016324
rd_2_1_0_2_2 nd_2_0_2500_5000 nd_2_0_2500_7000 0.016324
rd_2_1_0_2_3 nd_2_0_2500_7000 nd_2_0_2500_9000 0.016324
rd_2_1_0_3_0 nd_2_0_3500_1000 nd_2_0_3500_3000 0.016324
rd_2_1_0_3_1 nd_2_0_3500_3000 nd_2_0_3500_5000 0.016324
rd_2_1_0_3_2 nd_2_0_3500_5000 nd_2_0_3500_7000 0.016324
rd_2_1_0_3_3 nd_2_0_3500_7000 nd_2_0_3500_9000 0.016324
rd_2_1_0_4_0 nd_2_0_4500_1000 nd_2_0_4500_3000 0.016324
rd_2_1_0_4_1 nd_2_0_4500_3000 nd_2_0_4500_5000 0.016324
rd_2_1_0_4_2 nd_2_0_4500_5000 nd_2_0_4500_7000 0.016324
rd_2_1_0_4_3 nd_2_0_4500_7000 nd_2_0_4500_9000 0.016324
rd_2_1_0_5_0 nd_2_0_5500_1000 nd_2_0_5500_3000 0.016324
rd_2_1_0_5_1 nd_2_0_5500_3000 nd_2_0_5500_5000 0.016324
rd_2_1_0_5_2 nd_2_0_5500_5000 nd_2_0_5500_7000 0.016324
rd_2_1_0_5_3 nd_2_0_5500_7000 nd_2_0_5500_9000 0.016324
rd_2_1_0_6_0 nd_2_0_6500_1000 nd_2_0_6500_3000 0.016324
rd_2_1_0_6_1 nd_2_0_6500_3000 nd_2_0_6500_5000 0.016324
rd_2_1_0_6_2 nd_2_0_6500_5000 nd_2_0_6500_7000 0.016324
rd_2_1_0_6_3 nd_2_0_6500_7000 nd_2_0_6500_9000 0.016324
rd_2_1_0_7_0 nd_2_0_7500_1000 nd_2_0_7500_3000 0.016324
rd_2_1_0_7_1 nd_2_0_7500_3000 nd_2_0_7500_5000 0.016324
rd_2_1_0_7_2 nd_2_0_7500_5000 nd_2_0_7500_7000 0.016324
rd_2_1_0_7_3 nd_2_0_7500_7000 nd_2_0_7500_9000 0.016324
rd_2_1_0_8_0 nd_2_0_8500_1000 nd_2_0_8500_3000 0.016324
rd_2_1_0_8_1 nd_2_0_8500_3000 nd_2_0_8500_5000 0.016324
rd_2_1_0_8_2 nd_2_0_8500_5000 nd_2_0_8500_7000 0.016324
rd_2_1_0_8_3 nd_2_0_8500_7000 nd_2_0_8500_9000 0.016324
rd_2_1_0_9_0 nd_2_0_9500_1000 nd_2_0_9500_3000 0.016324
rd_2_1_0_9_1 nd_2_0_9500_3000 nd_2_0_9500_5000 0.016324
rd_2_1_0_9_2 nd_2_0_9500_5000 nd_2_0_9500_7000 0.016324
rd_2_1_0_9_3 nd_2_0_9500_7000 nd_2_0_9500_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_500_1000 nd_2_0_500_1000 0.005
rvd_1_0_0_1 nd_1_0_1500_1000 nd_2_0_1500_1000 0.005
rvd_1_0_0_2 nd_1_0_2500_1000 nd_2_0_2500_1000 0.005
rvd_1_0_0_3 nd_1_0_3500_1000 nd_2_0_3500_1000 0.005
rvd_1_0_0_4 nd_1_0_4500_1000 nd_2_0_4500_1000 0.005
rvd_1_0_0_5 nd_1_0_5500_1000 nd_2_0_5500_1000 0.005
rvd_1_0_0_6 nd_1_0_6500_1000 nd_2_0_6500_1000 0.005
rvd_1_0_0_7 nd_1_0_7500_1000 nd_2_0_7500_1000 0.005
rvd_1_0_0_8 nd_1_0_8500_1000 nd_2_0_8500_1000 0.005
rvd_1_0_0_9 nd_1_0_9500_1000 nd_2_0_9500_1000 0.005
rvd_1_0_1_0 nd_1_0_500_3000 nd_2_0_500_3000 0.005
rvd_1_0_1_1 nd_1_0_1500_3000 nd_2_0_1500_3000 0.005
rvd_1_0_1_2 nd_1_0_2500_3000 nd_2_0_2500_3000 0.005
rvd_1_0_1_3 nd_1_0_3500_3000 nd_2_0_3500_3000 0.005
rvd_1_0_1_4 nd_1_0_4500_3000 nd_2_0_4500_3000 0.005
rvd_1_0_1_5 nd_1_0_5500_3000 nd_2_0_5500_3000 0.005
rvd_1_0_1_6 nd_1_0_6500_3000 nd_2_0_6500_3000 0.005
rvd_1_0_1_7 nd_1_0_7500_3000 nd_2_0_7500_3000 0.005
rvd_1_0_1_8 nd_1_0_8500_3000 nd_2_0_8500_3000 0.005
rvd_1_0_1_9 nd_1_0_9500_3000 nd_2_0_9500_3000 0.005
rvd_1_0_2_0 nd_1_0_500_5000 nd_2_0_500_5000 0.005
rvd_1_0_2_1 nd_1_0_1500_5000 nd_2_0_1500_5000 0.005
rvd_1_0_2_2 nd_1_0_2500_5000 nd_2_0_2500_5000 0.005
rvd_1_0_2_3 nd_1_0_3500_5000 nd_2_0_3500_5000 0.005
rvd_1_0_2_4 nd_1_0_4500_5000 nd_2_0_4500_5000 0.005
rvd_1_0_2_5 nd_1_0_5500_5000 nd_2_0_5500_5000 0.005
rvd_1_0_2_6 nd_1_0_6500_5000 nd_2_0_6500_5000 0.005
rvd_1_0_2_7 nd_1_0_7500_5000 nd_2_0_7500_5000 0.005
rvd_1_0_2_8 nd_1_0_8500_5000 nd_2_0_8500_5000 0.005
rvd_1_0_2_9 nd_1_0_9500_5000 nd_2_0_9500_5000 0.005
rvd_1_0_3_0 nd_1_0_500_7000 nd_2_0_500_7000 0.005
rvd_1_0_3_1 nd_1_0_1500_7000 nd_2_0_1500_7000 0.005
rvd_1_0_3_2 nd_1_0_2500_7000 nd_2_0_2500_7000 0.005
rvd_1_0_3_3 nd_1_0_3500_7000 nd_2_0_3500_7000 0.005
rvd_1_0_3_4 nd_1_0_4500_7000 nd_2_0_4500_7000 0.005
rvd_1_0_3_5 nd_1_0_5500_7000 nd_2_0_5500_7000 0.005
rvd_1_0_3_6 nd_1_0_6500_7000 nd_2_0_6500_7000 0.005
rvd_1_0_3_7 nd_1_0_7500_7000 nd_2_0_7500_7000 0.005
rvd_1_0_3_8 nd_1_0_8500_7000 nd_2_0_8500_7000 0.005
rvd_1_0_3_9 nd_1_0_9500_7000 nd_2_0_9500_7000 0.005
rvd_1_0_4_0 nd_1_0_500_9000 nd_2_0_500_9000 0.005
rvd_1_0_4_1 nd_1_0_1500_9000 nd_2_0_1500_9000 0.005
rvd_1_0_4_2 nd_1_0_2500_9000 nd_2_0_2500_9000 0.005
rvd_1_0_4_3 nd_1_0_3500_9000 nd_2_0_3500_9000 0.005
rvd_1_0_4_4 nd_1_0_4500_9000 nd_2_0_4500_9000 0.005
rvd_1_0_4_5 nd_1_0_5500_9000 nd_2_0_5500_9000 0.005
rvd_1_0_4_6 nd_1_0_6500_9000 nd_2_0_6500_9000 0.005
rvd_1_0_4_7 nd_1_0_7500_9000 nd_2_0_7500_9000 0.005
rvd_1_0_4_8 nd_1_0_8500_9000 nd_2_0_8500_9000 0.005
rvd_1_0_4_9 nd_1_0_9500_9000 nd_2_0_9500_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_500_1000 0 100.143
rdesr_0_0_0_0 nd_1_0_500_1000 nd_1_0_500_1000_ci 100.143
cd_0_0_0_0 nd_1_0_500_1000_ci 0 1.99714e-11
rdload_0_0_0_1 nd_1_0_1500_1000 0 40.9786
rdesr_0_0_0_1 nd_1_0_1500_1000 nd_1_0_1500_1000_ci 40.9786
cd_0_0_0_1 nd_1_0_1500_1000_ci 0 4.8806e-11
rdload_0_0_0_2 nd_1_0_2500_1000 0 57.1198
rdesr_0_0_0_2 nd_1_0_2500_1000 nd_1_0_2500_1000_ci 57.1198
cd_0_0_0_2 nd_1_0_2500_1000_ci 0 3.50142e-11
rdload_0_0_0_3 nd_1_0_3500_1000 0 56.7834
rdesr_0_0_0_3 nd_1_0_3500_1000 nd_1_0_3500_1000_ci 56.7834
cd_0_0_0_3 nd_1_0_3500_1000_ci 0 3.52215e-11
rdload_0_0_0_4 nd_1_0_4500_1000 0 147.289
rdesr_0_0_0_4 nd_1_0_4500_1000 nd_1_0_4500_1000_ci 147.289
cd_0_0_0_4 nd_1_0_4500_1000_ci 0 1.35788e-11
rdload_0_0_0_5 nd_1_0_5500_1000 0 80.8323
rdesr_0_0_0_5 nd_1_0_5500_1000 nd_1_0_5500_1000_ci 80.8323
cd_0_0_0_5 nd_1_0_5500_1000_ci 0 2.47426e-11
rdload_0_0_0_6 nd_1_0_6500_1000 0 56.0458
rdesr_0_0_0_6 nd_1_0_6500_1000 nd_1_0_6500_1000_ci 56.0458
cd_0_0_0_6 nd_1_0_6500_1000_ci 0 3.56851e-11
rdload_0_0_0_7 nd_1_0_7500_1000 0 42.7685
rdesr_0_0_0_7 nd_1_0_7500_1000 nd_1_0_7500_1000_ci 42.7685
cd_0_0_0_7 nd_1_0_7500_1000_ci 0 4.67634e-11
rdload_0_0_0_8 nd_1_0_8500_1000 0 79.4324
rdesr_0_0_0_8 nd_1_0_8500_1000 nd_1_0_8500_1000_ci 79.4324
cd_0_0_0_8 nd_1_0_8500_1000_ci 0 2.51786e-11
rdload_0_0_0_9 nd_1_0_9500_1000 0 55.4634
rdesr_0_0_0_9 nd_1_0_9500_1000 nd_1_0_9500_1000_ci 55.4634
cd_0_0_0_9 nd_1_0_9500_1000_ci 0 3.60598e-11
rdload_0_0_0_10 nd_1_0_500_3000 0 91.8152
rdesr_0_0_0_10 nd_1_0_500_3000 nd_1_0_500_3000_ci 91.8152
cd_0_0_0_10 nd_1_0_500_3000_ci 0 2.17829e-11
rdload_0_0_0_11 nd_1_0_1500_3000 0 60.7756
rdesr_0_0_0_11 nd_1_0_1500_3000 nd_1_0_1500_3000_ci 60.7756
cd_0_0_0_11 nd_1_0_1500_3000_ci 0 3.29079e-11
rdload_0_0_0_12 nd_1_0_2500_3000 0 54.7085
rdesr_0_0_0_12 nd_1_0_2500_3000 nd_1_0_2500_3000_ci 54.7085
cd_0_0_0_12 nd_1_0_2500_3000_ci 0 3.65574e-11
rdload_0_0_0_13 nd_1_0_3500_3000 0 89.5443
rdesr_0_0_0_13 nd_1_0_3500_3000 nd_1_0_3500_3000_ci 89.5443
cd_0_0_0_13 nd_1_0_3500_3000_ci 0 2.23353e-11
rdload_0_0_0_14 nd_1_0_4500_3000 0 60.1258
rdesr_0_0_0_14 nd_1_0_4500_3000 nd_1_0_4500_3000_ci 60.1258
cd_0_0_0_14 nd_1_0_4500_3000_ci 0 3.32636e-11
rdload_0_0_0_15 nd_1_0_5500_3000 0 45.322
rdesr_0_0_0_15 nd_1_0_5500_3000 nd_1_0_5500_3000_ci 45.322
cd_0_0_0_15 nd_1_0_5500_3000_ci 0 4.41287e-11
rdload_0_0_0_16 nd_1_0_6500_3000 0 88.0975
rdesr_0_0_0_16 nd_1_0_6500_3000 nd_1_0_6500_3000_ci 88.0975
cd_0_0_0_16 nd_1_0_6500_3000_ci 0 2.27021e-11
rdload_0_0_0_17 nd_1_0_7500_3000 0 237.301
rdesr_0_0_0_17 nd_1_0_7500_3000 nd_1_0_7500_3000_ci 237.301
cd_0_0_0_17 nd_1_0_7500_3000_ci 0 8.42813e-12
rdload_0_0_0_18 nd_1_0_8500_3000 0 44.9179
rdesr_0_0_0_18 nd_1_0_8500_3000 nd_1_0_8500_3000_ci 44.9179
cd_0_0_0_18 nd_1_0_8500_3000_ci 0 4.45257e-11
rdload_0_0_0_19 nd_1_0_9500_3000 0 400.312
rdesr_0_0_0_19 nd_1_0_9500_3000 nd_1_0_9500_3000_ci 400.312
cd_0_0_0_19 nd_1_0_9500_3000_ci 0 4.9961e-12
rdload_0_0_0_20 nd_1_0_500_5000 0 59.1241
rdesr_0_0_0_20 nd_1_0_500_5000 nd_1_0_500_5000_ci 59.1241
cd_0_0_0_20 nd_1_0_500_5000_ci 0 3.38272e-11
rdload_0_0_0_21 nd_1_0_1500_5000 0 44.3882
rdesr_0_0_0_21 nd_1_0_1500_5000 nd_1_0_1500_5000_ci 44.3882
cd_0_0_0_21 nd_1_0_1500_5000_ci 0 4.5057e-11
rdload_0_0_0_22 nd_1_0_2500_5000 0 64.9765
rdesr_0_0_0_22 nd_1_0_2500_5000 nd_1_0_2500_5000_ci 64.9765
cd_0_0_0_22 nd_1_0_2500_5000_ci 0 3.07804e-11
rdload_0_0_0_23 nd_1_0_3500_5000 0 47.9777
rdesr_0_0_0_23 nd_1_0_3500_5000 nd_1_0_3500_5000_ci 47.9777
cd_0_0_0_23 nd_1_0_3500_5000_ci 0 4.1686e-11
rdload_0_0_0_24 nd_1_0_4500_5000 0 44.0466
rdesr_0_0_0_24 nd_1_0_4500_5000 nd_1_0_4500_5000_ci 44.0466
cd_0_0_0_24 nd_1_0_4500_5000_ci 0 4.54064e-11
rdload_0_0_0_25 nd_1_0_5500_5000 0 64.1732
rdesr_0_0_0_25 nd_1_0_5500_5000 nd_1_0_5500_5000_ci 64.1732
cd_0_0_0_25 nd_1_0_5500_5000_ci 0 3.11657e-11
rdload_0_0_0_26 nd_1_0_6500_5000 0 119.241
rdesr_0_0_0_26 nd_1_0_6500_5000 nd_1_0_6500_5000_ci 119.241
cd_0_0_0_26 nd_1_0_6500_5000_ci 0 1.67728e-11
rdload_0_0_0_27 nd_1_0_7500_5000 0 71.7409
rdesr_0_0_0_27 nd_1_0_7500_5000 nd_1_0_7500_5000_ci 71.7409
cd_0_0_0_27 nd_1_0_7500_5000_ci 0 2.78781e-11
rdload_0_0_0_28 nd_1_0_8500_5000 0 324.073
rdesr_0_0_0_28 nd_1_0_8500_5000 nd_1_0_8500_5000_ci 324.073
cd_0_0_0_28 nd_1_0_8500_5000_ci 0 6.17144e-12
rdload_0_0_0_29 nd_1_0_9500_5000 0 116.25
rdesr_0_0_0_29 nd_1_0_9500_5000 nd_1_0_9500_5000_ci 116.25
cd_0_0_0_29 nd_1_0_9500_5000_ci 0 1.72042e-11
rdload_0_0_0_30 nd_1_0_500_7000 0 70.8564
rdesr_0_0_0_30 nd_1_0_500_7000 nd_1_0_500_7000_ci 70.8564
cd_0_0_0_30 nd_1_0_500_7000_ci 0 2.82261e-11
rdload_0_0_0_31 nd_1_0_1500_7000 0 50.8773
rdesr_0_0_0_31 nd_1_0_1500_7000 nd_1_0_1500_7000_ci 50.8773
cd_0_0_0_31 nd_1_0_1500_7000_ci 0 3.93103e-11
rdload_0_0_0_32 nd_1_0_2500_7000 0 112.897
rdesr_0_0_0_32 nd_1_0_2500_7000 nd_1_0_2500_7000_ci 112.897
cd_0_0_0_32 nd_1_0_2500_7000_ci 0 1.77153e-11
rdload_0_0_0_33 nd_1_0_3500_7000 0 547.346
rdesr_0_0_0_33 nd_1_0_3500_7000 nd_1_0_3500_7000_ci 547.346
cd_0_0_0_33 nd_1_0_3500_7000_ci 0 3.65399e-12
rdload_0_0_0_34 nd_1_0_4500_7000 0 137.861
rdesr_0_0_0_34 nd_1_0_4500_7000 nd_1_0_4500_7000_ci 137.861
cd_0_0_0_34 nd_1_0_4500_7000_ci 0 1.45073e-11
rdload_0_0_0_35 nd_1_0_5500_7000 0 79.5105
rdesr_0_0_0_35 nd_1_0_5500_7000 nd_1_0_5500_7000_ci 79.5105
cd_0_0_0_35 nd_1_0_5500_7000_ci 0 2.51539e-11
rdload_0_0_0_36 nd_1_0_6500_7000 0 68.7864
rdesr_0_0_0_36 nd_1_0_6500_7000 nd_1_0_6500_7000_ci 68.7864
cd_0_0_0_36 nd_1_0_6500_7000_ci 0 2.90755e-11
rdload_0_0_0_37 nd_1_0_7500_7000 0 134.634
rdesr_0_0_0_37 nd_1_0_7500_7000 nd_1_0_7500_7000_ci 134.634
cd_0_0_0_37 nd_1_0_7500_7000_ci 0 1.4855e-11
rdload_0_0_0_38 nd_1_0_8500_7000 0 4194.46
rdesr_0_0_0_38 nd_1_0_8500_7000 nd_1_0_8500_7000_ci 4194.46
cd_0_0_0_38 nd_1_0_8500_7000_ci 0 4.7682e-13
rdload_0_0_0_39 nd_1_0_9500_7000 0 178.694
rdesr_0_0_0_39 nd_1_0_9500_7000 nd_1_0_9500_7000_ci 178.694
cd_0_0_0_39 nd_1_0_9500_7000_ci 0 1.11923e-11
rdload_0_0_0_40 nd_1_0_500_9000 0 49.3772
rdesr_0_0_0_40 nd_1_0_500_9000 nd_1_0_500_9000_ci 49.3772
cd_0_0_0_40 nd_1_0_500_9000_ci 0 4.05045e-11
rdload_0_0_0_41 nd_1_0_1500_9000 0 75.6109
rdesr_0_0_0_41 nd_1_0_1500_9000 nd_1_0_1500_9000_ci 75.6109
cd_0_0_0_41 nd_1_0_1500_9000_ci 0 2.64512e-11
rdload_0_0_0_42 nd_1_0_2500_9000 0 53.8611
rdesr_0_0_0_42 nd_1_0_2500_9000 nd_1_0_2500_9000_ci 53.8611
cd_0_0_0_42 nd_1_0_2500_9000_ci 0 3.71325e-11
rdload_0_0_0_43 nd_1_0_3500_9000 0 87.629
rdesr_0_0_0_43 nd_1_0_3500_9000 nd_1_0_3500_9000_ci 87.629
cd_0_0_0_43 nd_1_0_3500_9000_ci 0 2.28235e-11
rdload_0_0_0_44 nd_1_0_4500_9000 0 75.177
rdesr_0_0_0_44 nd_1_0_4500_9000 nd_1_0_4500_9000_ci 75.177
cd_0_0_0_44 nd_1_0_4500_9000_ci 0 2.66039e-11
rdload_0_0_0_45 nd_1_0_5500_9000 0 161.282
rdesr_0_0_0_45 nd_1_0_5500_9000 nd_1_0_5500_9000_ci 161.282
cd_0_0_0_45 nd_1_0_5500_9000_ci 0 1.24006e-11
rdload_0_0_0_46 nd_1_0_6500_9000 0 41.3618
rdesr_0_0_0_46 nd_1_0_6500_9000 nd_1_0_6500_9000_ci 41.3618
cd_0_0_0_46 nd_1_0_6500_9000_ci 0 4.83538e-11
rdload_0_0_0_47 nd_1_0_7500_9000 0 220.424
rdesr_0_0_0_47 nd_1_0_7500_9000 nd_1_0_7500_9000_ci 220.424
cd_0_0_0_47 nd_1_0_7500_9000_ci 0 9.07342e-12
rdload_0_0_0_48 nd_1_0_8500_9000 0 52.3644
rdesr_0_0_0_48 nd_1_0_8500_9000 nd_1_0_8500_9000_ci 52.3644
cd_0_0_0_48 nd_1_0_8500_9000_ci 0 3.81939e-11
rdload_0_0_0_49 nd_1_0_9500_9000 0 84.3083
rdesr_0_0_0_49 nd_1_0_9500_9000 nd_1_0_9500_9000_ci 84.3083
cd_0_0_0_49 nd_1_0_9500_9000_ci 0 2.37224e-11

*-- intentional decap
cd_add_cap0 nd_1_0_1500_3000 nd0 'dcap_int_val156'
cd_add_cap1 nd_1_0_3500_3000 nd1 'dcap_int_val157'
cd_add_cap2 nd_1_0_5500_3000 nd2 'dcap_int_val158'
cd_add_cap3 nd_1_0_7500_3000 nd3 'dcap_int_val159'
cd_add_cap4 nd_1_0_1500_7000 nd4 'dcap_int_val160'
cd_add_cap5 nd_1_0_3500_7000 nd5 'dcap_int_val161'
cd_add_cap6 nd_1_0_5500_7000 nd6 'dcap_int_val162'
cd_add_cap7 nd_1_0_7500_7000 nd7 'dcap_int_val163'
rd_add0 nd0 0 'esr35'
rd_add1 nd1 0 'esr36'
rd_add2 nd2 0 'esr37'
rd_add3 nd3 0 'esr38'
rd_add4 nd4 0 'esr39'
rd_add5 nd5 0 'esr40'
rd_add6 nd6 0 'esr41'
rd_add7 nd7 0 'esr42'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_500_1000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_500_3000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_500_5000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_500_7000  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_500_9000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_1500_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_1500_3000  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_1500_5000  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_1500_7000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_1500_9000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_2500_1000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_2500_3000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_2500_5000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_2500_7000  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_2500_9000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3500_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3500_3000  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3500_5000  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3500_7000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3500_9000  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4500_1000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4500_3000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_4500_5000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_4500_7000  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_4500_9000  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_5500_1000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_5500_3000  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_5500_5000  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_5500_7000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_5500_9000  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6500_1000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6500_3000  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_6500_5000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_6500_7000  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_6500_9000  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7500_1000  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7500_3000  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7500_5000  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7500_7000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7500_9000  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8500_1000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8500_3000  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_8500_5000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_8500_7000  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_8500_9000  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_9500_1000  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_9500_3000  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_9500_5000  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_9500_7000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_9500_9000  0.001

.ends chiplet5
